US07417142B2
meso-Chiral Porphyrin 17b (Mixture of α,α and α,β)
The general procedure was used to couple 5,15-dibromo-10,20-di(2′,4′,6′-trimethylphenyl)porphyrin (0.035 g, 0.05 mmol) with (R)-(+)4-benzyl-2-oxazolidinone (0.0708 g, 0.4 mmol), using Pd2(dba)3 (0.0046 g, 0.005 mmol) and Xantphos (0.0116 g, 0.02 mmol) in the presence of Cs2CO3 (0.0652 g, 0.2 mmol). The reaction was conducted in THF (5 mL) at 80° C. for 20 h. The title compound was isolated by flash column chromatography (silica gel, ethyl acetate:hexanes (v/v)=1:2) as purple mixture of two atropic isomers (0.032 g, 72%, α,α and αβ, =50%/50%). 1H NMR (300 MHz, CDCl3): δ 9.45 (d, J=4.8 Hz, 2H), 9.41 (d, J=4.8 Hz, 2H), 9.22 (m, 4H), 8.88 (d, J=4.8 Hz, 2H), 8.82 (m, 6H), 7.35 (m, 8H), 7.10 (m, 8H), 6.95 (m, 4H), 6.86 (m, 8H), 5.36 (m, 2H), 5.20 (m, 2H), 5.03 (m, 4H), 4.86 (m, 4H), 3.28 (m, 4H), 3.07 (dd, J=13.2, 3.6 Hz, 2H), 2.75 (dd, J=13.2, 3.3 Hz, 2H), 2.67 (s, 12H), 2.04 (s, 6H), 1.89 (s, 6H), 1.86 (s, 6H), 1.73 (s, 6H), −2.67 (s, 2H), −2.76 (s, 2H). 13C NMR (75 MHz, CDCl3): δ 159.5, 139.5, 139.3, 139.1, 138.2, 137.3, 137.2, 135.0, 128.8, 128.6, 128.5, 128.1, 127.9, 127.7, 127.1, 126.9, 119.9, 111.1, 110.8, 68.8, 66.3, 40.4, 21.9, 21.7, 21.6, 21.5. UV-vis (CHCl3, λmax, nm): 416, 512, 544, 590, 646. HRMS-MALDI ([M+H]+): calcd for C58H53N6O4, 897.4123, found 897.4109 with an isotope distribution pattern that is the same as calculated one.

reactant | 5,15-dibromo-10,20-di(2′,4′,6′-trimethylphenyl)porphyrin | 0.05 mmol, 0.035 g | BrC=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=C(C=C(C=C4C)C)C)N3)Br)=N2)C2=C(C=C(C=C2C)C)C | C38H32Br2N4
reactant | (R)-(+)4-benzyl-2-oxazolidinone | 0.4 mmol, 0.0708 g | C(C1=CC=CC=C1)[C@H]1NC(OC1)=O | C10H11NO2
reactant | Xantphos | 0.02 mmol, 0.0116 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.2 mmol, 0.0652 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 0.005 mmol, 0.0046 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Porphyrin | C12=CC=C(N1)C=C1C=CC(=N1)C=C1C=CC(N1)=CC=1C=CC(N1)=C2 | C20H14N4
